US05192817
150 Milligrams of 3,4,4a,5,8,9,10,10a-octahydro-1,4a-dimethyl-7-(1-methylethyl)-5,8-dioxo-2-phenanthrenecarboxylic acid was dissolved in 10 ml of ethyl acetate. Thereto was added, as a catalyst, 3 ml of an ethyl acetate suspension containing 15 mg of 10% palladium-carbon. The container inside was purged with hydrogen gas, and the contents were stirred at room temperature for 3 hours. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure to obtain 135 mg of 3,4,4a,9,10,10a-hexahydro-5,8-dihydroxy-1,4a-dimethyl-7-(1-methylethyl)-2-phenanthrenecarboxylic acid.

reactant | 3,4,4a,5,8,9,10,10a-octahydro-1,4a-dimethyl-7-(1-methylethyl)-5,8-dioxo-2-phenanthrenecarboxylic acid | CC1=C(CCC2(C=3C(C=C(C(C3CCC12)=O)C(C)C)=O)C)C(=O)O | C20H24O4
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 15 mg | [C].[Pd]
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | 3,4,4a,9,10,10a-hexahydro-5,8-dihydroxy-1,4a-dimethyl-7-(1-methylethyl)-2-phenanthrenecarboxylic acid | 135 mg | OC1=C2C3(CCC(=C(C3CCC2=C(C(=C1)C(C)C)O)C)C(=O)O)C | C20H26O4
